US06197794B1
5-Phenyl-1,3-thiazolidine-4-carboxylic acid
A mixture of β-phenyl-DL-cysteine hydrochloride [HT Nagasawa et al, J. Med. Chem (1987) 30, 1373] (1.32 g, 5.65 mmol) in acetic acid (11 ml) and formaldehyde (37 wt % aqueous solution, 0.43 ml) was heated to 80° to give a cloudy solution that was cooled to 30° and stirred for 2.5 h, then stood at room temperature for 16 h. The white precipitate was collected by filtration, washed with Et2O and dried in vacuo to give the title compound (1.04 g, 88%). δH (DMSO-d6) 7.57-7.54 (2 H, m, Ar—H), 7.40-7.29 (3 H, m, Ar—H), 4.90 (1 H, d, CHα-Thiopro), 4.59 (2 H, d, J 9.3 Hz, NCH2S), 4.46 (1 H, d, J 9.8 Hz, CHPh). m/z (ESI, 60 V) 210 (MH+).

reactant | β-phenyl-DL-cysteine hydrochloride | 5.65 mmol, 1.32 g | Cl.C1(=CC=CC=C1)C(C(N)C(=O)O)S
reactant | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
solvent | formaldehyde | 0.43 ml | C=O | CH2O
product | 5-Phenyl-1,3-thiazolidine-4-carboxylic acid | 1.04 g, 88% | C1(=CC=CC=C1)C1C(NCS1)C(=O)O | C10H11NO2S
